US03962240
A mixture of 1.56 g. (0.01 mole) of 2,2,5,5-tetramethyl-3,4(2H,5H) furandione and 1.80 g. (0.01 mole) 3-nitro benzimidic acid hydrazide in 100 ml. absolute ethanol is refluxed under nitrogen for 18 hours at a bath temperature of 100°C. The excess water is removed from the condensate by using a Dean Stark trap filled with 3A molecular sieves. The resulting mixture is evaporated to dryness in vacuo at 40°C., and the resulting residue is recrystallized from hexane to give 5,7-dihydro-5,5,7,7-tetramethyl-3-(m-nitrophenyl)furo[3,4-e]-as-triazine.

reactant | 2,2,5,5-tetramethyl-3,4(2H,5H) furandione | 0.01 mole | CC1(OC(C(C1=O)=O)(C)C)C | C8H12O3
reactant | 3-nitro benzimidic acid hydrazide | 0.01 mole | [N+](=O)([O-])C=1C=C(C(=N)NN)C=CC1 | C7H8N4O2
solvent | ethanol | C(C)O | C2H6O
product | 5,7-dihydro-5,5,7,7-tetramethyl-3-(m-nitrophenyl)furo[3,4-e]-as-triazine | CC1(OC(C2=C1N=C(N=N2)C2=CC(=CC=C2)[N+](=O)[O-])(C)C)C | C15H16N4O3
